US09034866B2
Into a 1000-mL round-bottom flask was placed a solution of 3-(4-bromo-3-fluorophenyl)-3-hydroxycyclobutane-1-carboxylic acid (50 g, 172.95 mmol, 1.00 equiv) in trifluoroacetic acid (500 mL) and triethylsilane (40.1 g, 344.87 mmol, 2.00 equiv). The resulting solution was stirred at room temperature for 4 h and concentrated under vacuum. The resulting solution was diluted with 200 mL of EA and washed with 2×200 mL of saturated aqueous sodium carbonate. The aqueous layers were combined and extracted with 3×500 mL of EA. The pH value of the aqueous layer was adjusted to 4 with hydrogen chloride (1 mol/L). The resulting solution was extracted with 3×500 mL of ethyl acetate. The organic layers were combined, washed with 1×1000 mL of water and 1)(1000 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to afford 35 g (crude) of 3-(4-bromo-3-fluorophenyl)cyclobutane-1-carboxylic acid as a yellow liquid.

reactant | 3-(4-bromo-3-fluorophenyl)-3-hydroxycyclobutane-1-carboxylic acid | 172.95 mmol, 50 g, 1.00 equiv | BrC1=C(C=C(C=C1)C1(CC(C1)C(=O)O)O)F | C11H10BrFO3
reactant | triethylsilane | 344.87 mmol, 40.1 g, 2.00 equiv | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 500 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(4-bromo-3-fluorophenyl)cyclobutane-1-carboxylic acid | 35 g | BrC1=C(C=C(C=C1)C1CC(C1)C(=O)O)F | C11H10BrFO2
